US04994479
To a solution of 9.92 g of sodium hydroxide in 160 ml of methanol-water (10:1) was added 37.2 g of 2,5-dimercapto-1,3,4-thiadiazole to dissolve. Then 40 g of ethyl bromobutyrate was added to the solution followed by stirring for 3 hours. The reaction mixture was settled overnight. The formed solid was taken by filtration, washed with methanolwater (10:1) and dried under reduced pressure to obtain 41.5 g of ethyl 3-[(5-mercapto-1,3,4-thiadiazol-2-yl)thio]butyrate.

reactant | sodium hydroxide | 9.92 g | [OH-].[Na+]
reactant | 2,5-dimercapto-1,3,4-thiadiazole | 37.2 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | ethyl bromobutyrate | 40 g | BrC(C(=O)OCC)CC | C6H11BrO2
solvent | methanol water | 160 ml | CO.O
product | ethyl 3-[(5-mercapto-1,3,4-thiadiazol-2-yl)thio]butyrate | 41.5 g | SC1=NN=C(S1)SC(CC(=O)OCC)C | C8H12N2O2S3
